US06906084B2
[{1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-trifluoromethyl-1H-indole-2-carbonyl}-(1-isopropyl-piperidin-4-yl)-amino]-acetic acid
The title compound was prepared analogously to example 185 with the difference that [{1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-trifluoromethyl-1H-indole-2-carbonyl}-(1-isopropyl-piperidin-4-yl)-amino]-acetic acid ethyl ester was used instead [{1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-7-methyl-1H-indole-2-carbonyl}-(1-isopropyl-piperidin-4-yl)-amino]-acetic acid ethyl ester. MS (ESI+): m/e=609, chloro pattern.

reactant | [{1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-trifluoromethyl-1H-indole-2-carbonyl}-(1-isopropyl-piperidin-4-yl)-amino]-acetic acid ethyl ester | C(C)OC(CN(C1CCN(CC1)C(C)C)C(=O)C=1N(C2=CC=CC(=C2C1)C(F)(F)F)CC1=NOC(=C1)C=1SC(=CC1)Cl)=O | C30H32ClF3N4O4S
reactant | [{1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-7-methyl-1H-indole-2-carbonyl}-(1-isopropyl-piperidin-4-yl)-amino]-acetic acid ethyl ester | C(C)OC(CN(C1CCN(CC1)C(C)C)C(=O)C=1N(C2=C(C=CC=C2C1)C)CC1=NOC(=C1)C=1SC(=CC1)Cl)=O | C30H35ClN4O4S
product | [{1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-trifluoromethyl-1H-indole-2-carbonyl}-(1-isopropyl-piperidin-4-yl)-amino]-acetic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=CC2=C(C=CC=C12)C(F)(F)F)C(=O)N(C1CCN(CC1)C(C)C)CC(=O)O | C28H28ClF3N4O4S
